US04873234
A solution of 4,5-dihydroisoxazolo[3,4,5-ef][1,4]benzoxazepine of Example 7(b ) (3.9 g; 22.1 mmoles) in 120 ml dimethylformamide was added to a suspension of sodium hydride (1.4 g; 27.7 mmoles). This was followed by a solution of propargyl bromide (2.7 ml of 80% solution; 24.4 mmoles). The reaction was heated at 80° C. for 1.5 hours and then quenched into water (400 ml). The resulting precipitate was filtered, rinsed and dried, then passed through a column of florisil (ethyl acetate/dichloromethane). This gave 3.5 g of a solid, mp 100°-104° C., which was recrystallized from isopropanol to give 2.5 g (53%) of 4,5-dihydro-3-(2-propynyl)isoxazolo[3,4,5-ef][1,4]benzoxazepine, mp 104°-106° C.

reactant | 4,5-dihydroisoxazolo[3,4,5-ef][1,4]benzoxazepine | C1=CC=C2C=3C(N=CCO2)=NOC13 | C9H6N2O2
reactant | sodium hydride | 27.7 mmoles, 1.4 g | [H-].[Na+]
reactant | propargyl bromide | 24.4 mmoles, 2.7 ml | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 4,5-dihydro-3-(2-propynyl)isoxazolo[3,4,5-ef][1,4]benzoxazepine | 2.5 g, 53% | C(C#C)C=1C=CC2=C3C(N=CCOC31)=NO2 | C12H8N2O2
